US06599917B1
d) 2-Benzyl-6-(5,6-dihydro-2H-pyran-4-yl)-3-pyridyl Trifluoromethanesulfonate
57.9 μl of methanesulfonyl chloride was added dropwise to a mixture of 104 mg of 2-benzyl-6-(4-hydroxytetrahydro-4H-pyran-4-yl)-3-pyridyl trifluoromethane sulfonate, 139 μl of triethylamine and 2 ml of dichloromethane under ice-cooling. After stirring at room temperature for 3 hours, water and ethyl acetate were added thereto. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 15% ethyl acetate/hexane, to give 60.7 mg of the target compound.

reactant | methanesulfonyl chloride | 57.9 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-benzyl-6-(4-hydroxytetrahydro-4H-pyran-4-yl)-3-pyridyl trifluoromethane sulfonate | 104 mg | FC(S(=O)(=O)OC=1C(=NC(=CC1)C1(CCOCC1)O)CC1=CC=CC=C1)(F)F | C18H18F3NO5S
reactant | triethylamine | 139 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-Benzyl-6-(5,6-dihydro-2H-pyran-4-yl)-3-pyridyl Trifluoromethanesulfonate | 60.7 mg | FC(S(=O)(=O)OC=1C(=NC(=CC1)C1=CCOCC1)CC1=CC=CC=C1)(F)F | C18H16F3NO4S
